US07176242B2
N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-[4-(2-hydroxyethyl)-1,3-oxazol-2-yl]benzamide
Methyl 3-{4-[2-(benzyloxy)ethyl]-1,3-oxazol-2-yl}benzoate (300 mg, 0.9 mmol), 20% palladium(II) hydroxide on carbon (65 mg), and cyclohexene (3 mL) in absolute ethanol (3 mL) are refluxed 1 h. The reaction is cooled, filtered through diatomaceous earth, and concentrated under reduced pressure. The residue is redissolved in 2:1:1 tetrahydrofuran/methanol/water (4 mL) is added lithium hydroxide (75 mg, 1.8 mmol). The reaction mixture is stirred at room temperature for 3 h, and concentrated under reduced pressure. The residue is dissolved in DMF (5 mL), and diisopropylethylamine (625 μL, 3.6 mmol), HATU (540 mg, 1.4 mmol), and (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride prepared by the method in EXAMPLE SP-272 (407 mg, 1 mmol) are added. The reaction stirred at room temperature 16 h. The reaction mixture is diluted with chloroform, washed with water, 1N hydrochloric acid (aq), saturated sodium bicarbonate, brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 8% methanol/chloroform) provides the title compound. ESI MS m/z 550.3 [M+H]+.

reactant | Methyl 3-{4-[2-(benzyloxy)ethyl]-1,3-oxazol-2-yl}benzoate | 0.9 mmol, 300 mg | C(C1=CC=CC=C1)OCCC=1N=C(OC1)C=1C=C(C(=O)OC)C=CC1 | C20H19NO4
reactant | cyclohexene | 3 mL | C1=CCCCC1 | C6H10
reactant | lithium hydroxide | 1.8 mmol, 75 mg | [OH-].[Li+]
reactant | diisopropylethylamine | 3.6 mmol, 625 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 1.4 mmol, 540 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium(II) hydroxide | [OH-].[Pd+2].[OH-]
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-[4-(2-hydroxyethyl)-1,3-oxazol-2-yl]benzamide | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(=CC=C2)C=2OC=C(N2)CCO)=O)C=C(C1)F | C31H33F2N3O4
